US07030138B2
4-(1-Methylpiperidin-4-yloxy)-3-trifluoromethylnitrobenzene
To a suspension of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-trifluoromethylnitrobenzene (2.45 g) obtained in reference example 100 in 90% formic acid (8.80 g) was added 37% formaldehyde (5.50 g), and the resulting mixture was stirred at 100° C. for 6 hours. After cooling to room temperature, the reaction mixture was neutralized with an aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue obtained was purified by chromatography on a silica gel column using a mixed solvent of dichloromethane and methanol (10:1) as the eluent to afford the title compound (1.82 g, yield: 95%) as a yellow oil.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-trifluoromethylnitrobenzene | 2.45 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C17H21F3N2O5
reactant | formaldehyde | 5.50 g | C=O | CH2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | formic acid | 8.80 g | C(=O)O | CH2O2
product | 4-(1-Methylpiperidin-4-yloxy)-3-trifluoromethylnitrobenzene | 1.82 g, yield: 95% | CN1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C13H15F3N2O3
